US04125729
Methyl α-(p-chlorophenoxy)-α-[p-(α,α,α-trifluoro-m-tolyloxy)phenyl]acetate
In a manner similar to Example 16, 7.62 g of methyl α-bromo-α-[p-(α,α,α-trifluoro-m-tolyloxy)phenyl]acetate was reacted with 3.21 g of p-chlorophenol to give a gel which crystallized on trituration with 50 ml of petroleum ether (6.45 g). Recrystallization from 50 ml of hexane yielded a 5.8 g of a white solid, mp 79°-82° C.

reactant | methyl α-bromo-α-[p-(α,α,α-trifluoro-m-tolyloxy)phenyl]acetate | 7.62 g | BrC(C(=O)OC)C1=CC=C(C=C1)OC=1C=C(C=CC1)C(F)(F)F | C16H12BrF3O3
reactant | p-chlorophenol | 3.21 g | ClC1=CC=C(C=C1)O | C6H5ClO
product | Methyl α-(p-chlorophenoxy)-α-[p-(α,α,α-trifluoro-m-tolyloxy)phenyl]acetate | 5.8 g | ClC1=CC=C(OC(C(=O)OC)C2=CC=C(C=C2)OC=2C=C(C=CC2)C(F)(F)F)C=C1 | C22H16ClF3O4
